US07338959B2
A. N1-Methyl-4-nitro-benzene-1,2-diamine
To a solution of 2-fluoro-5-nitroaniline (5 g, 32 mmol) in 40 ml N-methylpyrrolidinone in a sealed reaction vessel was added potassium carbonate (9.0 g, 50.0 mmol) and a solution of methyl amine (32 ml, 2M in THF) and the reaction was heated to 120° C. After 16 h, the reaction mixture was cooled to room temperature and poured into 400 ml of water. The resulting precipitate was filtered and dried to give the title compound as a red solid. 1H NMR (300 MHz, d6-DMSO) δ7.54 (dd, J=8.7 and 2.7 Hz, 1H), 7.39 (d, J=2.7 Hz, 1H), 6.41 (d, J=8.7 Hz, 1H), 6.13 (s, 1H), 5.08 (s, 2H), 2.83 (s, 3H).

reactant | 2-fluoro-5-nitroaniline | 32 mmol, 5 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | potassium carbonate | 50.0 mmol, 9.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl amine | 2M, 32 ml | CN | CH5N
reactant | water | 400 ml | O | H2O
solvent | N-methylpyrrolidinone | 40 ml | CN1C(CCC1)=O | C5H9NO
product | N1-Methyl-4-nitro-benzene-1,2-diamine | CNC=1C(=CC(=CC1)[N+](=O)[O-])N | C7H9N3O2
